US07528129B2
12f) (S)-2-(3-chloro-4-hydroxy-5-methyl-benzyl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-1-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-butane-1,4-dione
Prepared analogously to Example 7i from 100 mg (0.20 mmol) (S)-2-(3-chloro-4-hydroxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid and 37.5 mg (0.22 mmol) 1-(tetrahydropyran-4-yl)-piperazine.

reactant | (S)-2-(3-chloro-4-hydroxy-5-methyl-benzyl)-4-oxo-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-butanoic acid | 0.20 mmol, 100 mg | ClC=1C=C(C[C@H](C(=O)O)CC(N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)=O)C=C(C1O)C | C26H30ClN3O5
reactant | 1-(tetrahydropyran-4-yl)-piperazine | 0.22 mmol, 37.5 mg | O1CCC(CC1)N1CCNCC1 | C9H18N2O
product | (S)-2-(3-chloro-4-hydroxy-5-methyl-benzyl)-4-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidin-1-yl]-1-[4-(tetrahydropyran-4-yl)-piperazin-1-yl]-butane-1,4-dione | ClC=1C=C(C[C@H](C(=O)N2CCN(CC2)C2CCOCC2)CC(=O)N2CCC(CC2)N2C(NC3=C(CC2)C=CC=C3)=O)C=C(C1O)C | C35H46ClN5O5
